US07776864B2
Step 4: 2-Bromo-5-chloro-6-phenyl[1,2,4]triazolo[1,5-a]pyrimidine
A mixture of 29.4 g 2,7-dibromo-5-chloro-6-phenyl[1,2,4]triazolo[1,5-a]pyrimidine, 125 ml methanol, 500 ml THF, 12.9 ml glacial acetic acid and 14.7 g of Zn/Cu pair are stirred at 45° C. After 3 and 5 hours additional portions of 7.3 g Zn/Cu pair are added. The mixture is filtered through celite and the filtrate is diluted with water and ethyl acetate. The phases are separated and the water layer is extracted with ethyl acetate. The combined organic layers are washed with saturated Na2CO3 solution, dried over Na2SO4 and the solvent is evaporated. The solid residue is stirred in a mixture of 2-propanol/ethanol (3:1) for 2 h. The crude product is filtered and dried and is used without further purification.

reactant | 2,7-dibromo-5-chloro-6-phenyl[1,2,4]triazolo[1,5-a]pyrimidine | 29.4 g | BrC1=NN2C(N=C(C(=C2Br)C2=CC=CC=C2)Cl)=N1 | C11H5Br2ClN4
reactant | methanol | 125 ml | CO | CH4O
reactant | THF | 500 ml | C1CCOC1 | C4H8O
solvent | acetic acid | 12.9 ml | C(C)(=O)O | C2H4O2
product | 2-Bromo-5-chloro-6-phenyl[1,2,4]triazolo[1,5-a]pyrimidine | BrC1=NN2C(N=C(C(=C2)C2=CC=CC=C2)Cl)=N1 | C11H6BrClN4
